US07241468B2
Erythritol tetraoleate:
Erythritol and a five-fold molar excess of methyl oleate are heated at 180° C. under vacuum, with agitation, in the presence of sodium methoxide catalyst over two reaction periods of several hours each. The reaction product (predominately erytiritol tetraoleate) is refined in petroleum ether and crystallized three times from several volumes of acetone at 1° C.

reactant | Erythritol | C([C@H](O)[C@H](O)CO)O | C4H10O4
reactant | methyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC | C19H36O2
catalyst | sodium methoxide | C[O-].[Na+]
product | Erythritol tetraoleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)O[C@@H](COC(CCCCCCC\C=C/CCCCCCCC)=O)[C@H](OC(CCCCCCC\C=C/CCCCCCCC)=O)COC(CCCCCCC\C=C/CCCCCCCC)=O | C76H138O8
